US08431718B2
5-Fluoro-1-methyl-3-difluoromethyl-1H-pyrazole-4-carbonyl chloride (I-1)
A solution of 22.3 g (100 mmol) of ethyl 5-fluoro-1-methyl-3-difluoromethyl-1H-pyrazole-4-carboxylate in 100 ml of toluene and 50 ml of 10% NaOH are stirred at AT for 3 hours. The aqueous phase is separated and adjusted to pH 5 with HCl. After extracting the product with chlorobenzene and azeotropically drying the organic phase, 23.8 g (200 mmol) of SOCl2 are added to the solution and the mixture is heated at 80° C. for 2 hours. After evaporating the reaction mixture, 20.1 g of the product are obtained as an oil with a purity (GC) of 98%.

reactant | ethyl 5-fluoro-1-methyl-3-difluoromethyl-1H-pyrazole-4-carboxylate | 100 mmol, 22.3 g | FC1=C(C(=NN1C)C(F)F)C(=O)OCC | C8H9F3N2O2
reactant | SOCl2 | 200 mmol, 23.8 g | O=S(Cl)Cl | Cl2OS
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 50 ml | [OH-].[Na+]
product | 5-Fluoro-1-methyl-3-difluoromethyl-1H-pyrazole-4-carbonyl chloride | FC1=C(C(=NN1C)C(F)F)C(=O)Cl | C6H4ClF3N2O
